US05187156
Boc-D-Trp(CHO)-OH (3.26 g), HCl.H-Phe-NMeBzl (2.99 g) and HOBT (1.32 g) were dissolved in DMF (40 ml). To this solution was added WSC under ice cooling. The reaction mixture was stirred for an hour at this temperature and for additional an hour at room temperature. After evaporation and extraction with ethyl acetate, the organic layer was washed successively with diluted sodium hydrogencarbonate solution, water, 0.5N hydrochloric acid, and sodium chloride solution and dried over magnesium sulfate. The evaporated residue was crystallized from a mixed solvent of ethyl acetate and diisopropyl ether (3:4) (35 ml) with seeding. The crystals were collected by filtration after addition of diisopropyl ether (55 ml) and dried to give Boc-D-Trp(CHO)-Phe-NMeBzl (4.96 g).

reactant | Boc-D-Trp(CHO)-OH | 3.26 g | N([C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)O)C(=O)OC(C)(C)C | C17H20N2O5
reactant | HCl | Cl | ClH
reactant | H-Phe-NMeBzl | 2.99 g | N[C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1 | C17H20N2O
reactant | HOBT | 1.32 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | Boc-D-Trp(CHO)-Phe-NMeBzl | 4.96 g | N([C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1)C(=O)OC(C)(C)C | C34H38N4O5
